US07902367B2
Step 87d) Methyl 3-[3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-oxoethyl]piperidin-1-yl]benzoate
Using 3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-oxoethyl]piperidine (140 mg, 0.418 mmol) and 3-(methoxycarbonyl)phenylboric acid (150 mg, 0.836 mmol), the same procedure was followed as in Example 2 to give 88.7 mg (45%) of the desired compound as a yellow oil.

reactant | 3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-oxoethyl]piperidine | 0.418 mmol, 140 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(CC1CNCCC1)=O | C17H19ClN2OS
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.836 mmol, 150 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-oxoethyl]piperidin-1-yl]benzoate | 88.7 mg, 45% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(CC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1)=O | C25H25ClN2O3S
